US07465795B2
4-Amino-8-(2,4-dimethoxypyrimidin-5-yl)-7-fluoro-N-propylcinnoline-3-carboxamide
The title compound was prepared from 4-amino-7-flouro-8-iodo-N-propylcinnoline-3-carboxamide (220 mg, 58.8 mmol) and 2,4-dimethoxy-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyrimidine (312 mg, 1.62 mmol) according to Method B to afford a white solid (123 mg, 54%). 1H NMR (300.132 MHz, CDCl3) δ 8.47 (t, J=5.4 Hz, 1H), 8.32 (s, 1H), 7.93 (dd, J=9.1, 5.2 Hz, 1H), 7.53 (dd, J=9.2, 8.4 Hz, 1H), 4.07 (s, 3H), 3.94 (s, 3H), 3.45 (q, J=6.7 Hz, 2H), 1.66 (sextet, J=7.3 Hz, 2H), 1.00 (t, J=7.4 Hz, 3H). MS APCI, m/z=387 (M+H). HPLC 1.87 min.

reactant | 4-amino-7-flouro-8-iodo-N-propylcinnoline-3-carboxamide | 58.8 mmol, 220 mg | NC1=C(N=NC2=C(C(=CC=C12)F)I)C(=O)NCCC | C12H12FIN4O
reactant | 2,4-dimethoxy-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyrimidine | 1.62 mmol, 312 mg | COC1=NC=C(C(=N1)OC)B1OC(C(O1)(C)C)(C)C | C12H19BN2O4
product | 4-Amino-8-(2,4-dimethoxypyrimidin-5-yl)-7-fluoro-N-propylcinnoline-3-carboxamide | NC1=C(N=NC2=C(C(=CC=C12)F)C=1C(=NC(=NC1)OC)OC)C(=O)NCCC | C18H19FN6O3
